US05932571
Synthesis of 4-(1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt
Combine 1-ethoxycarbonyl-4-(1H-benzimidazol-2- yl)[1,4]diazepane (16.7 g, 58 mmol) and aqueous 48% hydrobromic acid solution (80 mL). Heat to reflux. After 3 hours, cool to ambient temperature, add to ethanol (700 mL), and cool to 0° C. to give a solid. Combine the solid with aqueous 48% hydriodic acid (80 mL) and water (150 mL). Heat on a steam bath. After about 1 hour, cool to ambient temperature, dilute with ethanol (500 mL), and add to diethyl ether (8 L) to give a solid. Collect solid by filtration and dry in vacuo to give the title compound: mp; >290° C.

reactant | 1-ethoxycarbonyl-4-(1H-benzimidazol-2- yl)[1,4]diazepane | 58 mmol, 16.7 g | C(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1)C=CC=C2 | C15H20N4O2
reactant | hydrobromic acid | 80 mL | Br | BrH
reactant | hydriodic acid | 80 mL | I | HI
reactant | water | 150 mL | O | H2O
solvent | ethanol | 500 mL | C(C)O | C2H6O
solvent | ethanol | 700 mL | C(C)O | C2H6O
solvent | diethyl ether | 8 L | C(C)OCC | C4H10O
product | 4-(1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt | I.N1C(=NC2=C1C=CC=C2)N2CCNCCC2 | InChI=1S/C12H16N4.HI/c1-2-5-11-10(4-1)14-12(15-11)16-8-3-6-13-7-9-16;/h1-2,4-5,13H,3,6-9H2,(H,14,15);1H
